US05081123
b. 8-Acetyl-1,2,3,4-tetrahydro-6-nitro-5-naphthylamine
A solution of 8-acetyl-1,2,3,4-tetrahydro-5-methoxy-6-nitronaphthalene (1.0 g, 4 mmol) in 15 ml of dry dimethylsulfoxide was heated to 100° C. and ammonia was passed into the solution for 3 h. After the solution was added to 100 ml of ice-water, the crude solid was filtered off and washed with water. Recrystallization from ethanol afforded 0.71 g (75%) of the pure title compound. M.p. 170°-172° C.; 1H-NMR (DMSO-d6): 1.47-1.93 (m, 4H, 2CH2), 2.27-2.63 (m, 2H, CH2), 2.48 (s, 3H, COCH3), 2.70-3.03 (m, 2H, CH2), 7.50 (broad s, 2H, NH2), 8.33 (s, 1H, H-7).

reactant | 8-acetyl-1,2,3,4-tetrahydro-5-methoxy-6-nitronaphthalene | 4 mmol, 1.0 g | C(C)(=O)C=1C=C(C(=C2CCCCC12)OC)[N+](=O)[O-] | C13H15NO4
reactant | ammonia | N | H3N
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 8-Acetyl-1,2,3,4-tetrahydro-6-nitro-5-naphthylamine | 0.71 g, 75% | C(C)(=O)C=1C=C(C(=C2CCCCC12)N)[N+](=O)[O-] | C12H14N2O3
